* C:\Users\gsk28\Downloads\design project #1.asc
M1 N002 Vo N005 0 CMOSN l=ln w=11.8197u
M2 N003 inp N005 0 CMOSN l=ln w=11.8197u
M3 N002 N002 N001 N001 CMOSP l=lp w=5.4169u
M4 N003 N002 N001 N001 CMOSP l=lp w=5.4169u
Mo N005 N006 0 0 CMOSN l=2200n w=180.7854u
M5 Vo N003 N001 N001 CMOSP l=lp w=132.4215u
I1 N001 N006 0.1µ
M6 N006 N006 0 0 CMOSN l=2200n w=0.24u
M7 Vo N006 0 0 CMOSN l=2200n w=2209.70499u
V1 N001 0 1.8
Cc P001 N003 2.5p
Rc Vo P001 140.311 tol=1 pwr=0.1
Cl Vo N004 5p
Rl Vo N004 10k
V4 N004 0 0.9
V2 inp N007 AC 1
V3 N007 0 0.9
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\gsk28\AppData\Local\LTspice\lib\cmp\standard.mos
.lib C:\Users\Dell\Downloads\ibm018.lib
.param ln=360n
.param lp=290n
.ac dec 100 10 100000000
.backanno
.end
